US05349109
A stirred mixture containing dioxane (12mL), 3 mL of 1-octene, 1g of 4A Molecular Sieves, and 0.051 g (0.11 mmol) of (2,6-diPicolinato)MoO2 (hexamethyl phosphoramide)is heated at reflux (ca. 100° C.) under a nitrogen atomosphere while a toluene solution (50 mL)of N-phenyl hydroxylamine (1.26 g, 11.6 mmol) is added dropwise over a 24 hr period. After heating an additional 6-12 hr, the mixture was allowed to cool and the volatiles were removed by evaporation at reduced pressure and the residue chromatographed over silica gel. Elution with pentane afforded phenyl trans-2-octenyl amine (>95% one isomer by NMR, GC/MS) in 20-30 % yield based on the hydroxylamine. Later fractions contained aniline, azobenzene and azoxybenzene.

reactant | dioxane | 12mL | O1CCOCC1 | C4H8O2
reactant | 1-octene | 3 mL | C=CCCCCCC | C8H16
reactant | N-phenyl hydroxylamine | 11.6 mmol, 1.26 g | C1(=CC=CC=C1)NO | C6H7NO
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | phenyl trans-2-octenyl amine | >95% | C1(=CC=CC=C1)NC\C=C\CCCCC | C14H21N
